US04462923
31.1 g of ethyl trans-4-chloro-2-(4-propylcyclohexyl)-5-pyrimidinecarboxylate are dissolved in 350 ml of ethanol and, after adding 14.1 g of potassium acetate and 2.56 g of palladium/carbon (5% by weight), the mixture is hydrogenated at room temperature until 0.10-0.11 mol of hydrogen have been taken up. The mixture is suction filtered, back-washed with methylene chloride and evaporated in vacuo. Thereby, there are obtained 35.6 g of crude, partly crystalline ethyl trans-2-(4-propylcyclohexyl)-5-pyrimidinecarboxylate which is used in the next step without further purification.

reactant | ethyl trans-4-chloro-2-(4-propylcyclohexyl)-5-pyrimidinecarboxylate | 31.1 g | ClC1=NC(=NC=C1C(=O)OCC)[C@@H]1CC[C@H](CC1)CCC | C16H23ClN2O2
reactant | potassium acetate | 14.1 g | C(C)(=O)[O-].[K+]
reactant | hydrogen | 0.10-0.11 mol | [H][H] | H2
solvent | ethanol | 350 ml | C(C)O | C2H6O
catalyst | palladium/carbon | 2.56 g | [Pd] | Pd
product | ethyl trans-2-(4-propylcyclohexyl)-5-pyrimidinecarboxylate | C(CC)[C@@H]1CC[C@H](CC1)C1=NC=C(C=N1)C(=O)OCC | C16H24N2O2
